US05162308
To a solution of 560 mg of 5-nitropyrrole-2-carbonitrile (4 mmol) in 20 mL of dry THF, is added 515 mg of potassium tert-butoxide (4.6 mmol). After the addition of 0.45 mL of chloromethylethylether (4.8 mmol) to the mixture, the mixture is stirred for 4 hours, then diluted with ether (30 mL) and water (50 mL). The organic layer is separated, washed with water MgSO4 (20 mL) and dried over MgSO4. After evaporation of the solvent a red oil is obtained (600 mg, 75%) 1-(ethoxymethyl)-5-nitropyrrole-2-carbonitrile.

reactant | 5-nitropyrrole-2-carbonitrile | 4 mmol, 560 mg | [N+](=O)([O-])C1=CC=C(N1)C#N | C5H3N3O2
reactant | potassium tert-butoxide | 4.6 mmol, 515 mg | CC(C)([O-])C.[K+]
reactant | chloromethylethylether | 4.8 mmol, 0.45 mL | ClCOCC | C3H7ClO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | water | 50 mL | O | H2O
product | 1-(ethoxymethyl)-5-nitropyrrole-2-carbonitrile | 600 mg, 75% | C(C)OCN1C(=CC=C1[N+](=O)[O-])C#N | C8H9N3O3
